US04041079
To a suspension of 0.32 part of lithium aluminum hydride in dry tetrahydrofuran, there is added 1.6 parts of 3,4-dihydro-2-acetamido-5,6-dimethoxy-1(2H)-naphthalenone in small portions. After the addition has been completed, the mixture is further stirred for 20 minutes, at the end of which time water is added so as to decompose the lithium aluminum hydride. The mixture is rendered sufficiently alkaline by the addition of a 3N aqueous solution of sodium hydroxide and, then, extracted with chloroform. The chloroform layer is washed with water and dried over anhydrous sodium sulfate. The chloroform is distilled off and the residue is treated with ethanol. The procedure gives crystals of 1-hydroxy-2-acetamido-5,6-dimethoxy-1,2,3,4-tetrahydronaphthalene. Melting point 184°-186° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,4-dihydro-2-acetamido-5,6-dimethoxy-1(2H)-naphthalenone | C(C)(=O)NC1C(C2=CC=C(C(=C2CC1)OC)OC)=O | C14H17NO4
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-hydroxy-2-acetamido-5,6-dimethoxy-1,2,3,4-tetrahydronaphthalene | OC1C(CCC2=C(C(=CC=C12)OC)OC)NC(C)=O | C14H19NO4
